US04091206
2-(Nicotinoyl)-hydrazono-formyl-quinoxaline-1,4-dioxide
7.55 g. (0.05 moles) of nicotinic acid ethyl ester are dissolved in 60 ml. of ethanol, then 2.6 g. (0.05 moles) of 96% hydrazine hydrate are dropped to the obtained solution. The reaction mixture is boiled for 2 hours, then the warm solution of 9.5 g. (0.05 moles) of 2-formyl-quinoxaline-1,4-dioxide and 1 ml. of concentrated hydrochloric acid in 140 ml. of methanol is dropped to it. The reaction mixture is allowed to cool to room temperature, then it is stirred for two hours at this temperature. The separated crystals are filtered and washed with methanol. In this way 13.2 g. (85.4%) of the title product are obtained with a melting point of 279° C.

reactant | nicotinic acid ethyl ester | 0.05 moles | C(C)OC(C1=CN=CC=C1)=O | C8H9NO2
reactant | hydrazine hydrate | 0.05 moles | O.NN
reactant | 2-formyl-quinoxaline-1,4-dioxide | 0.05 moles | C(=O)C1=[N+](C2=CC=CC=C2[N+](=C1)[O-])[O-] | C9H6N2O3
reactant | hydrochloric acid | Cl | ClH
solvent | methanol | CO | CH4O
solvent | ethanol | C(C)O | C2H6O
product | 2-(Nicotinoyl)-hydrazono-formyl-quinoxaline-1,4-dioxide | 85.4% | C(C1=CN=CC=C1)(=O)NN=C1C([N+](=C2C=CC=CC2=[N+]1[O-])[O-])C=O | C15H11N5O4
